US08557983B2
morpholine-4-carboxamide
A solution of morpholine-4-carbonyl chloride (2.0 g) in methanol (10 mL) and 7 N NH3 in methanol (5 mL) was stirred at 45° C. overnight. The mixture was concentrated, and the solid was dried under vacuum.

reactant | morpholine-4-carbonyl chloride | 2.0 g | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | NH3 | 7 N | N | H3N
solvent | methanol | 10 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | morpholine-4-carboxamide | N1(CCOCC1)C(=O)N | C5H10N2O2
